US08138181B2
Step A: Preparation of (trans)-naphthalen-2-ylmethyl 3-methoxy-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)pyrrolidine-1-carboxylate.
Sodium hydride (0.017 g, 0.43 mmol) was added to a solution of (trans)-naphthalen-2-ylmethyl 3-hydroxy-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)pyrrolidine-1-carboxylate (0.117 g, 0.194 mmol) in DMF (1 mL). The reaction was cooled to 0° C. and stirred for 20 minutes. Iodomethane (0.012 ml, 0.194 mmol) was added, and the ice bath was removed. The reaction was stirred for 1 hour. Water was added, and the reaction mixture was extracted with CHCl3. The combined organic layers were washed with brine, dried and condensed. The residue was purified by silica gel chromatography to provide 54 mg of the desired product. MS APCI (+) m/z 619.1 (M+1) detected.

reactant | Sodium hydride | 0.43 mmol, 0.017 g | [H-].[Na+]
reactant | (trans)-naphthalen-2-ylmethyl 3-hydroxy-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)pyrrolidine-1-carboxylate | 0.194 mmol, 0.117 g | O[C@@H]1CN(C[C@H]1OC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC)C(=O)OCC2=CC1=CC=CC=C1C=C2 | C35H32N4O6
reactant | Iodomethane | 0.194 mmol, 0.012 ml | IC | CH3I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (trans)-naphthalen-2-ylmethyl 3-methoxy-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)pyrrolidine-1-carboxylate | 54 mg | CO[C@@H]1CN(C[C@H]1OC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC)C(=O)OCC2=CC1=CC=CC=C1C=C2 | C36H34N4O6
